US08003685B2
5-(3,3-Dimethyl-but-1-ynyl)-3-(4-[1,2,4]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester (0.27 g, 0.70 mmol) is acylated with trans-4-methylcyclohexyl carboxylic acid chloride as previously described to give 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-[1,2,4]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | 5-(3,3-Dimethyl-but-1-ynyl)-3-(4-[1,2,4]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester | 0.70 mmol, 0.27 g | COC(=O)C=1SC(=CC1NC1CCC(CC1)N1N=CN=C1)C#CC(C)(C)C | C20H26N4O2S
reactant | trans-4-methylcyclohexyl carboxylic acid chloride | C[C@@H]1CC[C@H](CC1)C(=O)Cl | C8H13ClO
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-[1,2,4]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C1CCC(CC1)N1N=CN=C1)C(=O)[C@@H]1CC[C@H](CC1)C)C#CC(C)(C)C | C28H38N4O3S
